US06759554B2
2-[(4-Methoxyphenoxy)methyl]pyridine
A test tube was charged with CuI (20 mg, 0.10 mmol, 0.10 equiv), 1,10-phenanthroline (36 mg, 0.20 mmol, 0.20 equiv), Cs2CO3 (652 mg, 2.0 mmol, 2.0 equiv), 4-iodoanisole (234 mg, 1.0 mmol, 1.0 equiv), 2-pyridylcarbinol (193 μL, 2.0 mmol, 2.0 equiv) and toluene (0.5 mL). The test tube was sealed and the reaction mixture was stirred at 110° C. for 22 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel, eluting with diethyl ether. The filtrate was concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (2×20 cm; pentane:diethyl ether 1:1) provided 120 mg (56% yield) of the title compound as a light yellow solid.

reactant | 1,10-phenanthroline | 0.20 mmol, 36 mg, 0.20 equiv | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 2.0 mmol, 652 mg, 2.0 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-iodoanisole | 1.0 mmol, 234 mg, 1.0 equiv | IC1=CC=C(C=C1)OC | C7H7IO
reactant | 2-pyridylcarbinol | 2.0 mmol, 193 μL, 2.0 equiv | N1=C(C=CC=C1)CO | C6H7NO
catalyst | CuI | 0.10 mmol, 20 mg, 0.10 equiv | [Cu]I
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(4-Methoxyphenoxy)methyl]pyridine | 120 mg, 56% yield | COC1=CC=C(OCC2=NC=CC=C2)C=C1 | C13H13NO2
